US04772704
5-Amino-2-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone
A mixture of 5-nitro-2-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone (1.3 g; 3.51 mmoles) and a catalytic amount of Raney nickel No. 28 (approximately 1.4 cm3) in 108 ml of methanol was hydrogenated in a Parr apparatus at 50 psi for 2.5 hours. The reaction mixture was filtered, treated with 1.55N methanolic hydrochloric acid (7.0 ml, 10.9 meq.) and then evaporated under reduced pressure. The residue was placed on 85 g of silica gel and chromatographed by flash chromatography using a gradient elution of methanol:CH2Cl2 :H2O from 20:80:1 to 30:70:1. The appropriate fractions were combined and treated with 7.0 ml of 1.55N methanolic HCl, and then evaporated under reduced pressure and dried under high vacuum at 56° C. for 6 hours to give 0.41 g of the title compound as a trihydrochloride salt which had an indeterminate melting point. The NMR spectrum (100 MHz) in d6 dimethyl sulfoxide gave the following resonances δ: 8.88 (m, 6H); 8.18 (m, 1H), 7.82 (s, 1H), 7.56 (s, 1H), 7.40 (s, 1H); 4.50 (s, 2H); 3.82 (s, 2H); 3.50 (m, 2H); 2.73 (m, 8H).

reactant | 5-nitro-2-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone | 3.51 mmoles, 1.3 g | [N+](=O)([O-])C=1C(NC(=NC1)NCCSCC1=CSC(=C1)CN(C)C)=O | C14H19N5O3S2
reactant | hydrochloric acid | 1.55N, 7.0 ml, 10.9 meq. | Cl | ClH
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 108 ml | CO | CH4O
product | 5-Amino-2-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone | 0.41 g | NC=1C(NC(=NC1)NCCSCC1=CSC(=C1)CN(C)C)=O | C14H21N5OS2
